US05889026
A solution of 2-(4-Benzyl-4-hydroxy-piperidin-1-yl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl)-acetamide (0.97 g, 2.13 mmol) in THF (5 ml) was added dropwise to a room temperature suspension of LiAlH4 (0.162 g, 4.26 mmol) in THF (5 ml). After 20 hours at room temperature, the reaction mixture was refluxed during 3 hours. The reaction mixture was cooled to 0° C., and treated successively with H2O (0.2 ml), 5N NaOH (0.2 ml) and H2O (0.6 ml). After evaporation of THF, the resulting solid was filtered and washed with CH2Cl2. The aqueous phase was extracted with CH2Cl2 (3×10 ml), the combined organic phases were dried over Na2SO4 and concentrated. The residue was dissolved with CH2Cl2 (5ml) and stirred in the presence of tetra-n-butylammonium fluoride/SiO2 (0.5 g, 0.55 mmol, 1.1 mmol/g). After 4 hours at room temperature, the reaction mixture was quenched with 20% NH4Cl (15 ml) and the aqueous phase was extracted with CH2Cl2 (2×5ml). Combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (CH2Cl2 --MeOH 9:1 then 4:1) to give a foam which was dissolved in MeOH and treated with 1N HCl (0.6 ml). The solution was concentrated and the residue was dissolved with ethanol (EtOH). Addition of ether provided 4-Benzyl-1-[2-(4-hydroxy-phenylamino)-ethyl]-piperidin-4-ol hydrochloride (0.045 g, 5.3%) as beige solid, m.p. 130°-140° C. and MS: m/e=327.4 (M+H+).

reactant | 2-(4-Benzyl-4-hydroxy-piperidin-1-yl)-N-[4-(tert-butyl-dimethyl-silanyloxy)-phenyl)-acetamide | 2.13 mmol, 0.97 g | C(C1=CC=CC=C1)C1(CCN(CC1)CC(=O)NC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C26H38N2O3Si
reactant | LiAlH4 | 4.26 mmol, 0.162 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 5N, 0.2 ml | [OH-].[Na+]
reactant | HCl | 1N, 0.6 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
solvent | H2O | 0.6 ml | O | H2O
solvent | H2O | 0.2 ml | O | H2O
product | 4-Benzyl-1-[2-(4-hydroxy-phenylamino)-ethyl]-piperidin-4-ol hydrochloride | 0.045 g, 5.3% | Cl.C(C1=CC=CC=C1)C1(CCN(CC1)CCNC1=CC=C(C=C1)O)O | InChI=1S/C20H26N2O2.ClH/c23-19-8-6-18(7-9-19)21-12-15-22-13-10-20(24,11-14-22)16-17-4-2-1-3-5-17;/h1-9,21,23-24H,10-16H2;1H
